R1 ( net2 net38)  R=4.1E0
T2 ( net38 net29 vdd! vdd!)  pfet  L=8.99E-6 W=3.08E-6
T3 ( net27 net29 vdd! vdd!)  pfet  L=8.99E-6 W=3.08E-6
T4 ( net34 net38 net27 vdd!)  pfet  L=8.99E-6 W=3.08E-6
C5 (0 net56) C=0.7E-8
C6 (net10 net57) C=8.3E-6
C7 (net8 net21) C=2.9E-13
T8 ( net3 net3 vdd! vdd!)  pfet  L=1.15E-6 W=3.75E-6
T9 ( net13 net3 vdd! vdd!)  pfet  L=1.15E-6 W=3.75E-6
R10 ( net13 net17)  R=5.2E2
C11 (net48 net23) C=9.2E-6
R12 (net36 net21) R=2.2E2
R13 (0 net10) R=1.9E3
T14 (net2 vdd! vdd! 0) nfet L=8.71E-6 W=5.11E-6
T15 (net45 net35 net35 0) pfet L=8.45E-6 W=8.11E-6
C16 (net52 0) C=1.7E-10
R17 (net34 net28) R=4.9E0
C18 (net2 0) C=8.1E-9
R19 (net41 net32) R=9.3E1
T20 (net12 net42 net42 0) pfet L=3.94E-6 W=1.66E-6
T21 (vdd! net8 net8 0) nfet L=9.49E-6 W=8.10E-6
R22 (net24 net32) R=0.9E2
R23 (0 net5) R=3.9E4
T24 (net42 net42 net42 0) nfet L=2.70E-6 W=4.68E-6
R25 (net26 net10) R=2.8E4
T26 (net26 net54 net54 0) pfet L=5.24E-6 W=8.59E-6
T27 (net10 net45 net45 0) nfet L=2.84E-6 W=5.64E-6
T28 (net3 net40 net40 0) pfet L=6.89E-6 W=8.77E-6
T29 (net39 vdd! vdd! 0) pfet L=8.41E-6 W=0.21E-6
T30 (net9 net44 net44 0) pfet L=3.12E-6 W=5.35E-6
R31 (vdd! 0) R=10.0E5
T32 (net6 net7 net7 0) nfet L=1.73E-6 W=8.37E-6
T33 (net53 net57 net57 0) nfet L=2.32E-6 W=0.22E-6
T34 (0 net51 net51 0) nfet L=3.18E-6 W=1.40E-6
T35 (net18 net14 net14 0) pfet L=4.13E-6 W=8.13E-6
C36 (net9 net41) C=7.5E-8
C37 (net50 net8) C=5.1E-9
C38 (net47 net50) C=3.0E-7
T39 (net24 net45 net45 0) nfet L=1.68E-6 W=4.75E-6
T40 (net2 net50 net50 0) nfet L=7.41E-6 W=4.20E-6
T41 (vdd! net15 net15 0) nfet L=9.41E-6 W=2.25E-6
R42 (net45 0) R=7.4E3
T43 (net17 net53 net53 0) pfet L=8.07E-6 W=2.97E-6
T44 (0 vdd! vdd! 0) pfet L=7.82E-6 W=0.44E-6
C45 (net25 net4) C=2.6E-11
T46 (net11 0 0 0) pfet L=3.56E-6 W=6.27E-6
R47 (net3 net18) R=0.5E6
T48 (net36 0 0 0) nfet L=1.32E-6 W=8.96E-6
C49 (net54 net7) C=6.2E-14
T50 (net46 net26 net26 0) pfet L=3.00E-6 W=3.64E-6
C51 (net51 net7) C=6.0E-9
T52 (net24 net42 net42 0) nfet L=7.23E-6 W=0.98E-6
C53 (net8 net51) C=0.4E-9
C54 (net16 net40) C=0.6E-9
T55 (net17 net6 net6 0) nfet L=3.64E-6 W=3.70E-6
T56 (net49 net6 net6 0) nfet L=8.80E-6 W=3.40E-6
T57 (net56 0 0 0) pfet L=8.04E-6 W=8.46E-6
T58 (net3 net2 net2 0) pfet L=9.38E-6 W=5.49E-6
C59 (net44 net4) C=3.3E-5
T60 (net37 net8 net8 0) nfet L=9.87E-6 W=3.30E-6
R61 (net44 net23) R=4.2E2
R62 (vdd! net16) R=8.4E0
R63 (net57 net45) R=1.8E6
R64 (net24 net35) R=5.8E2
C65 (net9 net23) C=8.2E-8
T66 (net14 net33 net33 0) pfet L=5.89E-6 W=1.36E-6
T67 (net42 net7 net7 0) pfet L=8.65E-6 W=6.25E-6
R68 (vdd! net46) R=1.8E0
R69 (net36 net21) R=0.8E5
T70 (0 vdd! vdd! 0) pfet L=5.44E-6 W=8.87E-6
R71 (net47 net5) R=6.2E5
T72 (net48 net14 net14 0) pfet L=1.81E-6 W=1.58E-6
R73 (net12 net25) R=6.2E0
C74 (net12 net55) C=7.1E-6
T75 (net55 net9 net9 0) nfet L=3.33E-6 W=3.37E-6
T76 (net10 net35 net35 0) pfet L=6.81E-6 W=6.54E-6
R77 (net6 net9) R=8.5E1
T78 (vdd! net43 net43 0) nfet L=9.20E-6 W=1.95E-6
R79 (net31 net47) R=8.7E6
T80 (net49 net37 net37 0) pfet L=6.32E-6 W=5.74E-6
T81 (net16 net25 net25 0) nfet L=3.90E-6 W=6.82E-6
T82 (net47 net26 net26 0) nfet L=5.54E-6 W=5.33E-6
R83 (net5 net32) R=4.1E1
C84 (net24 net6) C=7.1E-7
T85 (net30 net22 net22 0) pfet L=0.34E-6 W=3.79E-6
R86 (net24 net5) R=8.7E6
T87 (net17 net31 net31 0) nfet L=7.82E-6 W=3.98E-6
T88 (net44 net44 net44 0) nfet L=6.79E-6 W=5.45E-6
R89 (net8 net51) R=0.4E1
C90 (vdd! net48) C=9.4E-6
R91 (net18 net17) R=2.6E4
C92 (net51 net18) C=7.0E-14
T93 (net37 vdd! vdd! 0) nfet L=0.79E-6 W=4.71E-6
T94 (net6 net17 net17 0) nfet L=3.83E-6 W=0.96E-6
T95 (net31 net18 net18 0) pfet L=5.54E-6 W=8.89E-6
C96 (net49 net11) C=4.7E-12
C97 (net52 net35) C=5.5E-6
T98 (net33 net10 net10 0) pfet L=8.30E-6 W=9.67E-6
T99 (vdd! net45 net45 0) pfet L=9.74E-6 W=8.51E-6
R100 (net43 net18) R=5.6E3
R101 (vdd! net50) R=1.7E3
T102 (vdd! net5 net5 0) pfet L=7.90E-6 W=2.99E-6
C103 (0 net19) C=1.3E-5
R104 (net19 net55) R=8.9E2
R105 (net12 net6) R=9.8E0
R106 (net32 net35) R=0.9E3
T107 (net50 net7 net7 0) nfet L=4.34E-6 W=0.57E-6
R108 (net5 net20) R=7.0E3
R109 (net9 net55) R=1.0E4
C110 (net21 net39) C=8.1E-11
R111 (net34 net1) R=0.7E3
T112 (net56 net21 net21 0) pfet L=6.32E-6 W=6.87E-6
T113 (net30 net37 net37 0) nfet L=3.87E-6 W=3.76E-6
C114 (net22 net55) C=8.5E-7
R115 (net8 net23) R=3.9E0
T116 (net34 vdd! vdd! 0) nfet L=1.95E-6 W=0.13E-6
T117 (net6 net15 net15 0) nfet L=6.62E-6 W=6.22E-6
T118 (net44 net24 net24 0) pfet L=9.97E-6 W=8.99E-6
C119 (net11 vdd!) C=7.0E-9
T120 (0 net32 net32 0) nfet L=9.86E-6 W=8.69E-6
C121 (net54 net10) C=6.5E-13
R122 (net21 net47) R=0.9E1
T123 (net43 0 0 0) nfet L=9.27E-6 W=8.62E-6
R124 (net45 net2) R=9.6E6
R125 (net19 net41) R=2.7E2
T126 (net39 vdd! vdd! 0) pfet L=3.45E-6 W=1.33E-6
C127 (net46 net11) C=7.9E-9
T128 (net46 net12 net12 0) nfet L=7.09E-6 W=1.84E-6
T129 (net51 net3 net3 0) nfet L=7.16E-6 W=9.44E-6
T130 (net46 net28 net28 0) nfet L=7.48E-6 W=9.76E-6
C131 (net50 net20) C=5.8E-12
T132 (net18 net41 net41 0) nfet L=8.66E-6 W=9.70E-6
C133 (vdd! net24) C=6.6E-10
C134 (net41 net2) C=8.5E-8
T135 (net49 net30 net30 0) pfet L=4.64E-6 W=9.43E-6
T136 (vdd! net28 net28 0) pfet L=2.41E-6 W=8.58E-6
T137 (net22 net24 net24 0) pfet L=1.78E-6 W=0.21E-6
R138 (net6 net12) R=3.2E4
T139 (net37 net30 net30 0) nfet L=0.47E-6 W=8.04E-6
T140 (net56 net2 net2 0) nfet L=1.26E-6 W=1.54E-6
R141 (net53 net17) R=5.8E6
C142 (vdd! net57) C=2.6E-14
C143 (vdd! net35) C=9.9E-8
T144 (net43 net47 net47 0) pfet L=7.89E-6 W=1.88E-6
C145 (net4 net49) C=8.1E-7
C146 (net2 0) C=3.6E-14
C147 (net32 net18) C=9.6E-13
T148 (net2 net1 net1 0) pfet L=8.18E-6 W=8.81E-6
T149 (net31 0 0 0) nfet L=1.79E-6 W=1.65E-6
T150 (net23 net52 net52 0) nfet L=9.29E-6 W=0.87E-6
R151 (net5 net34) R=3.7E3
T152 (net9 net2 net2 0) pfet L=3.87E-6 W=0.72E-6
C153 (net14 net39) C=0.2E-8
C154 (net25 net56) C=8.2E-9
T155 (net47 0 0 0) nfet L=1.76E-6 W=6.65E-6
T156 (net50 net33 net33 0) nfet L=7.00E-6 W=4.61E-6
T157 (net55 vdd! vdd! 0) nfet L=9.74E-6 W=4.75E-6
R158 (net25 net2) R=0.9E4
T159 (net11 net7 net7 0) pfet L=1.49E-6 W=1.90E-6
C160 (net33 net41) C=6.4E-5
T161 (net24 net20 net20 0) pfet L=1.95E-6 W=2.36E-6
R162 (net52 net5) R=0.8E2
R163 (net3 net14) R=7.4E3
T164 (net11 net7 net7 0) nfet L=0.19E-6 W=1.65E-6
T165 (net43 net3 net3 0) nfet L=2.83E-6 W=6.63E-6
R166 (net25 net16) R=3.6E5
R167 (net52 net11) R=3.2E2
T168 (net17 net55 net55 0) pfet L=9.31E-6 W=0.28E-6
T169 (net48 net8 net8 0) nfet L=9.74E-6 W=4.13E-6
T170 (net32 net55 net55 0) pfet L=8.73E-6 W=4.63E-6
T171 (net46 net10 net10 0) pfet L=5.65E-6 W=5.26E-6
R172 (net16 net56) R=2.0E3
T173 (net24 net8 net8 0) nfet L=3.42E-6 W=5.37E-6
R174 (net34 net11) R=6.8E1
T175 (net34 net28 net28 0) pfet L=1.09E-6 W=6.70E-6
T176 (net55 net43 net43 0) nfet L=2.92E-6 W=6.67E-6
T177 (net28 net52 net52 0) nfet L=0.20E-6 W=7.15E-6
C178 (net33 net48) C=7.7E-11
C179 (net45 vdd!) C=1.7E-12
C180 (vdd! net36) C=9.9E-6
T181 (net16 net56 net56 0) nfet L=3.90E-6 W=5.78E-6
T182 (vdd! net24 net24 0) nfet L=9.68E-6 W=4.71E-6
C183 (net39 net57) C=1.3E-14
T184 (net30 net36 net36 0) pfet L=0.97E-6 W=6.48E-6
C185 (net47 net33) C=7.1E-7
C186 (net16 0) C=2.4E-11
T187 (net7 net22 net22 0) nfet L=7.15E-6 W=2.78E-6
T188 (net49 net7 net7 0) nfet L=2.21E-6 W=7.37E-6
R189 (net55 net6) R=5.0E6
R190 (net15 net32) R=7.6E5
R191 (0 net44) R=0.8E1
R192 (net43 net55) R=2.0E4
R193 (net53 net15) R=1.7E5
T194 (net3 net49 net49 0) pfet L=7.34E-6 W=4.25E-6
T195 (net20 net51 net51 0) nfet L=0.27E-6 W=7.48E-6
R196 (vdd! net10) R=8.0E0
C197 (net22 0) C=7.8E-12
T198 (net15 net21 net21 0) pfet L=9.63E-6 W=2.62E-6
T199 (net39 net42 net42 0) pfet L=4.40E-6 W=0.88E-6
T200 (net35 0 0 0) nfet L=3.03E-6 W=3.16E-6
T201 (net37 net18 net18 0) nfet L=9.09E-6 W=4.60E-6
C202 (net5 0) C=9.2E-7
R203 (net44 net21) R=5.0E3
T204 (net32 net56 net56 0) pfet L=6.20E-6 W=7.77E-6
T205 (net20 net32 net32 0) pfet L=7.35E-6 W=8.22E-6
C206 (net56 net52) C=9.2E-8
T207 (net26 net47 net47 0) nfet L=5.87E-6 W=0.63E-6
C208 (net7 net54) C=3.7E-13
T209 (net39 net11 net11 0) pfet L=4.67E-6 W=0.71E-6
R210 (net2 net36) R=7.6E5
R211 (net39 net33) R=9.9E2
T212 (vdd! net57 net57 0) pfet L=3.82E-6 W=6.02E-6
R213 (net42 net19) R=1.8E4
T214 (net18 net49 net49 0) pfet L=7.65E-6 W=8.80E-6
R215 (net30 net56) R=5.2E2
R216 (net6 net1) R=9.3E1
T217 (net4 net20 net20 0) nfet L=3.08E-6 W=8.73E-6
T218 (net23 net23 net23 0) pfet L=4.38E-6 W=1.10E-6
R219 (net21 net55) R=1.6E3
C220 (net45 net52) C=8.1E-11
T221 (net42 0 0 0) pfet L=1.92E-6 W=8.34E-6
R222 (net22 net5) R=1.0E3
T223 (net48 net32 net32 0) pfet L=2.22E-6 W=8.29E-6
T224 (net25 net24 net24 0) nfet L=9.03E-6 W=5.13E-6
T225 (vdd! net12 net12 0) nfet L=2.10E-6 W=2.70E-6
C226 (net42 net12) C=1.5E-14
R227 (net6 net47) R=3.1E4
C228 (net36 net57) C=7.9E-9
R229 (net39 net20) R=0.5E0
R230 (net6 net37) R=1.9E2
R231 (net14 net44) R=7.1E3
R232 (net56 net19) R=9.2E2
T233 (net49 net18 net18 0) pfet L=3.46E-6 W=2.91E-6
T234 (net8 net48 net48 0) nfet L=9.42E-6 W=6.11E-6
C235 (net34 net10) C=5.3E-10
T236 (0 net51 net51 0) pfet L=8.00E-6 W=4.05E-6
T237 (net33 0 0 0) nfet L=0.90E-6 W=8.63E-6
T238 (net33 net6 net6 0) pfet L=6.25E-6 W=4.52E-6
T239 (net37 net18 net18 0) nfet L=0.57E-6 W=7.78E-6
T240 (net26 net47 net47 0) pfet L=8.87E-6 W=1.46E-6
C241 (net41 net3) C=0.9E-10
T242 (net31 0 0 0) nfet L=7.85E-6 W=0.83E-6
C243 (net52 net18) C=2.8E-8
R244 (net51 net49) R=10.0E2
T245 (vdd! net17 net17 0) pfet L=0.46E-6 W=7.44E-6
C246 (net17 net48) C=1.8E-11
C247 (net48 net42) C=7.7E-11
T248 (net49 net4 net4 0) nfet L=9.57E-6 W=3.22E-6
C249 (net25 net33) C=8.9E-10
T250 (net15 vdd! vdd! 0) nfet L=6.12E-6 W=6.04E-6
R251 (net5 net6) R=5.0E3
T252 (net5 net26 net26 0) nfet L=8.61E-6 W=7.55E-6
R253 (net34 net3) R=0.3E4
R254 (net14 net20) R=8.9E3
T255 (net28 net49 net49 0) pfet L=7.92E-6 W=9.97E-6
T256 (net14 net49 net49 0) pfet L=9.50E-6 W=0.90E-6
T257 (net22 net54 net54 0) pfet L=2.58E-6 W=9.95E-6
R258 (0 net40) R=3.0E5
R259 (net48 net5) R=4.1E5
R260 (net20 net51) R=3.3E3
C261 (net30 net20) C=4.6E-11
T262 (net11 net28 net28 0) nfet L=9.23E-6 W=2.36E-6
R263 (0 net7) R=1.5E6
C264 (vdd! net37) C=6.5E-14
T265 (net28 net33 net33 0) nfet L=6.76E-6 W=3.84E-6
T266 (net47 0 0 0) pfet L=0.33E-6 W=1.14E-6
R267 (net2 net30) R=4.2E5
T268 (net31 net17 net17 0) pfet L=2.08E-6 W=9.97E-6
C269 (net23 net35) C=6.8E-7
T270 (net10 net2 net2 0) nfet L=1.21E-6 W=9.09E-6
T271 (net6 net21 net21 0) nfet L=2.09E-6 W=9.26E-6
T272 (net34 net4 net4 0) nfet L=6.89E-6 W=3.91E-6
R273 (net9 net1) R=9.8E6
R274 (net10 net43) R=5.7E1
T275 (net26 0 0 0) nfet L=6.49E-6 W=5.25E-6
T276 (vdd! net10 net10 0) pfet L=9.52E-6 W=5.01E-6
T277 (net18 net48 net48 0) pfet L=0.91E-6 W=2.45E-6
R278 (net20 net19) R=0.7E6
R279 (net1 net53) R=2.9E5
C280 (net16 net26) C=3.1E-12
T281 (net2 net35 net35 0) nfet L=0.41E-6 W=3.28E-6
C282 (net49 net34) C=4.4E-6
C283 (net34 net48) C=3.9E-9
T284 (0 net19 net19 0) nfet L=5.67E-6 W=7.35E-6
R285 (net24 net39) R=3.5E5
R286 (net46 net45) R=4.5E3
C287 (net12 net54) C=8.1E-14
T288 (net43 net8 net8 0) nfet L=1.05E-6 W=9.56E-6
R289 (net37 0) R=3.9E5
C290 (net4 net51) C=9.5E-6
R291 (net19 net26) R=3.6E0
C292 (net49 net18) C=7.7E-7
R293 (net33 net18) R=4.2E6
T294 (net37 net42 net42 0) pfet L=5.23E-6 W=0.38E-6
T295 (net24 vdd! vdd! 0) nfet L=4.30E-6 W=6.02E-6
T296 (net2 net2 net2 0) pfet L=0.31E-6 W=7.36E-6
T297 (net48 vdd! vdd! 0) nfet L=1.41E-6 W=8.50E-6
T298 (net16 net25 net25 0) nfet L=0.31E-6 W=2.59E-6
R299 (vdd! net52) R=0.9E3
T300 (net42 vdd! vdd! 0) pfet L=3.98E-6 W=0.18E-6
T301 (net9 net31 net31 0) nfet L=5.36E-6 W=2.40E-6
T302 (net1 net42 net42 0) nfet L=4.85E-6 W=0.49E-6
R303 (vdd! net43) R=2.9E0
T304 (net4 net24 net24 0) pfet L=7.38E-6 W=3.71E-6
T305 (net26 net55 net55 0) nfet L=9.44E-6 W=8.41E-6
T306 (net40 net33 net33 0) pfet L=2.14E-6 W=5.34E-6
C307 (net16 net40) C=7.5E-13
R308 (net52 vdd!) R=5.3E5
R309 (net53 net10) R=0.5E6
T310 (net26 net52 net52 0) pfet L=8.84E-6 W=2.35E-6
C311 (net9 net15) C=5.7E-5
T312 (net50 net25 net25 0) nfet L=1.84E-6 W=9.29E-6
R313 (net56 net25) R=5.1E6
T314 (net55 net9 net9 0) pfet L=6.24E-6 W=3.25E-6
T315 (net25 net1 net1 0) nfet L=1.00E-6 W=7.76E-6
R316 (net31 net18) R=8.9E1
C317 (net14 net37) C=3.9E-10
T318 (net17 net8 net8 0) nfet L=1.26E-6 W=5.64E-6
C319 (net31 0) C=3.1E-6
C320 (net24 net10) C=3.8E-12
T321 (net52 net51 net51 0) pfet L=3.89E-6 W=8.12E-6
C322 (net57 net44) C=1.0E-6
T323 (net24 net16 net16 0) nfet L=2.49E-6 W=4.09E-6
C324 (net53 net25) C=7.7E-10
T325 (net39 net23 net23 0) pfet L=7.01E-6 W=3.17E-6
R326 (0 net56) R=5.1E6
C327 (net10 net50) C=0.5E-8
C328 (net35 net24) C=9.2E-10
T329 (net50 net6 net6 0) pfet L=6.64E-6 W=6.99E-6
R330 (net18 net19) R=0.2E6
R331 (net43 net51) R=7.0E4
T332 (net6 net44 net44 0) nfet L=7.81E-6 W=0.33E-6
R333 (net20 net37) R=2.4E1
R334 (net42 net49) R=7.3E1
T335 (net53 net9 net9 0) nfet L=6.07E-6 W=2.53E-6
R336 (net36 net7) R=4.6E1
R337 (net43 net5) R=3.0E1
T338 (net18 net20 net20 0) pfet L=2.40E-6 W=5.33E-6
T339 (net21 net46 net46 0) nfet L=8.20E-6 W=3.09E-6
T340 (net35 net28 net28 0) pfet L=3.48E-6 W=9.33E-6
C341 (net22 net31) C=4.5E-14
R342 (net26 net49) R=9.8E4
T343 (net39 net24 net24 0) nfet L=3.07E-6 W=6.32E-6
C344 (net56 net12) C=6.3E-7
C345 (net17 net10) C=4.7E-7
T346 (net10 0 0 0) pfet L=8.41E-6 W=5.47E-6
R347 (net28 net22) R=7.2E3
C348 (net47 net28) C=8.2E-6
T349 (vdd! net22 net22 0) pfet L=8.11E-6 W=8.20E-6
R350 (0 net8) R=4.5E1
T351 (net44 net45 net45 0) pfet L=4.58E-6 W=5.97E-6
C352 (net57 net21) C=9.1E-10
T353 (net8 net48 net48 0) nfet L=5.71E-6 W=1.22E-6
C354 (net55 net51) C=2.8E-11
R355 (net39 net53) R=1.2E0
T356 (net48 net40 net40 0) nfet L=2.76E-6 W=7.93E-6
R357 (net42 net17) R=6.6E2
R358 (net21 net20) R=8.6E3
T359 (net10 net7 net7 0) pfet L=1.52E-6 W=2.61E-6
T360 (net43 net49 net49 0) nfet L=1.42E-6 W=1.77E-6
T361 (net2 net32 net32 0) nfet L=6.59E-6 W=0.98E-6
T362 (net52 net9 net9 0) pfet L=2.58E-6 W=5.90E-6
R363 (net41 net10) R=1.3E3
R364 (net44 net30) R=0.2E1
R365 (net34 vdd!) R=5.8E6
R366 (net35 net30) R=0.7E6
C367 (net9 net55) C=9.7E-9
T368 (net22 net33 net33 0) pfet L=6.08E-6 W=0.28E-6
C369 (net17 net43) C=9.0E-12
C370 (net25 net51) C=1.3E-7
C371 (net41 net12) C=8.1E-12
C372 (net18 net21) C=2.3E-8
T373 (net8 net41 net41 0) nfet L=2.84E-6 W=3.18E-6
T374 (net51 net18 net18 0) nfet L=9.99E-6 W=2.03E-6
R375 (net19 net31) R=9.3E3
C376 (net24 net40) C=2.0E-7
T377 (net15 net17 net17 0) nfet L=0.11E-6 W=1.89E-6
R378 (net8 net19) R=2.1E1

