R1 ( net25 net42)  R=5.3E4
T2 ( net42 net30 0 0)  nfet  L=3.17E-6 W=5.18E-6
T3 ( net15 net30 0 0)  nfet  L=3.17E-6 W=5.18E-6
T4 ( net13 net42 net15 0)  nfet  L=3.17E-6 W=5.18E-6
T5 (net90 net69 net69 0) nfet L=5.95E-6 W=3.19E-6
T6 ( net115 net115 vdd! vdd!)  pfet  L=5.86E-6 W=3.22E-6
T7 ( net72 net115 vdd! vdd!)  pfet  L=5.86E-6 W=3.22E-6
R8 ( net72 net113)  R=1.8E1
R9 (net52 net22) R=0.8E2
R10 (net50 0) R=6.9E4
T11 (net121 net107 net107 0) pfet L=9.78E-6 W=3.13E-6
T12 (0 net50 net50 0) pfet L=9.01E-6 W=9.39E-6
T13 (net128 net71 net71 0) pfet L=8.23E-6 W=4.89E-6
T14 (net119 net47 net47 0) pfet L=7.51E-6 W=5.35E-6
R15 (net135 net37) R=4.2E0
T16 (vdd! net24 net24 0) pfet L=1.02E-6 W=9.01E-6
T17 (vdd! net43 net43 0) pfet L=7.68E-6 W=10.00E-6
T18 (net123 net121 net121 0) pfet L=9.97E-6 W=2.59E-6
T19 (net130 net138 net138 0) pfet L=4.08E-6 W=5.50E-6
R20 (net20 net89) R=3.4E3
C21 (net113 net90) C=5.6E-14
R22 (net114 net121) R=7.7E4
T23 (net122 net98 net98 0) nfet L=6.95E-6 W=8.05E-6
R24 (vdd! net61) R=2.5E0
T25 (vdd! net5 net5 0) nfet L=2.85E-6 W=0.37E-6
T26 (net28 0 0 0) nfet L=9.89E-6 W=8.92E-6
T27 (net91 net48 net48 0) nfet L=9.13E-6 W=8.43E-6
T28 (net115 net81 net81 0) pfet L=9.26E-6 W=6.97E-6
C29 (net97 net66) C=6.2E-5
C30 (net8 net61) C=1.5E-8
T31 (net57 net19 net19 0) pfet L=0.84E-6 W=1.80E-6
C32 (net105 net39) C=9.4E-9
T33 (net119 net104 net104 0) nfet L=0.66E-6 W=8.55E-6
T34 (net59 net115 net115 0) nfet L=4.80E-6 W=3.92E-6
T35 (net55 net119 net119 0) nfet L=9.08E-6 W=2.91E-6
C36 (net58 net80) C=7.6E-12
C37 (0 net58) C=8.6E-5
T38 (net86 net133 net133 0) nfet L=5.38E-6 W=6.41E-6
C39 (net107 net104) C=5.7E-5
T40 (net8 net57 net57 0) nfet L=9.79E-6 W=4.50E-6
T41 (net40 net140 net140 0) pfet L=0.37E-6 W=7.90E-6
T42 (net4 0 0 0) pfet L=3.02E-6 W=7.62E-6
T43 (net22 net40 net40 0) nfet L=9.76E-6 W=6.35E-6
R44 (net141 net93) R=8.6E4
T45 (net134 net78 net78 0) nfet L=5.55E-6 W=2.52E-6
T46 (net98 net23 net23 0) nfet L=7.26E-6 W=6.22E-6
C47 (net131 net27) C=0.8E-13
T48 (net132 net74 net74 0) pfet L=7.03E-6 W=9.74E-6
T49 (net78 0 0 0) pfet L=1.79E-6 W=4.55E-6
C50 (0 net64) C=7.0E-9
R51 (net57 net97) R=9.4E1
T52 (net100 net8 net8 0) pfet L=1.54E-6 W=0.19E-6
T53 (net20 net18 net18 0) nfet L=3.13E-6 W=8.65E-6
R54 (net73 net7) R=7.4E4
C55 (net4 net70) C=1.8E-6
C56 (vdd! net137) C=3.4E-11
R57 (vdd! net85) R=0.4E5
T58 (net53 net129 net129 0) nfet L=7.29E-6 W=5.52E-6
T59 (net95 net101 net101 0) nfet L=7.66E-6 W=4.92E-6
R60 (net126 net33) R=3.2E5
C61 (net65 net76) C=6.1E-5
T62 (net35 net67 net67 0) pfet L=7.27E-6 W=7.72E-6
T63 (net105 net95 net95 0) pfet L=9.25E-6 W=6.65E-6
C64 (net38 net104) C=2.2E-13
C65 (net65 0) C=6.6E-13
T66 (net119 net107 net107 0) nfet L=0.90E-6 W=2.39E-6
T67 (net126 net75 net75 0) pfet L=9.27E-6 W=2.85E-6
C68 (net57 net18) C=9.7E-11
R69 (vdd! net41) R=7.8E4
T70 (net91 net6 net6 0) pfet L=1.59E-6 W=2.63E-6
T71 (net59 net4 net4 0) nfet L=1.28E-6 W=0.79E-6
T72 (vdd! net51 net51 0) nfet L=3.93E-6 W=3.03E-6
R73 (net122 net81) R=4.1E4
R74 (net142 net83) R=9.0E6
T75 (net40 net39 net39 0) pfet L=9.30E-6 W=4.42E-6
R76 (net40 net35) R=5.3E6
R77 (net141 vdd!) R=0.9E2
C78 (net26 net38) C=5.9E-13
R79 (net60 net52) R=9.9E3
T80 (net25 net123 net123 0) pfet L=8.43E-6 W=8.05E-6
T81 (net113 net91 net91 0) pfet L=3.26E-6 W=0.22E-6
T82 (net83 vdd! vdd! 0) nfet L=0.94E-6 W=3.21E-6
T83 (net104 net25 net25 0) nfet L=5.57E-6 W=3.17E-6
C84 (net112 net131) C=4.5E-9
T85 (net23 net139 net139 0) pfet L=6.71E-6 W=1.46E-6
C86 (net132 net119) C=0.6E-12
T87 (0 net86 net86 0) nfet L=3.92E-6 W=8.00E-6
T88 (vdd! 0 0 0) pfet L=0.36E-6 W=2.05E-6
T89 (net56 net105 net105 0) nfet L=3.31E-6 W=3.65E-6
T90 (net128 net139 net139 0) nfet L=4.98E-6 W=5.47E-6
R91 (net58 net141) R=9.3E3
R92 (net107 net114) R=5.6E4
T93 (vdd! net115 net115 0) pfet L=7.43E-6 W=2.68E-6
T94 (vdd! net59 net59 0) nfet L=1.91E-6 W=8.20E-6
C95 (net108 net55) C=0.9E-11
C96 (net133 net83) C=3.9E-5
T97 (net36 net4 net4 0) pfet L=8.24E-6 W=7.78E-6
T98 (net111 net46 net46 0) pfet L=9.89E-6 W=8.62E-6
R99 (net130 net79) R=8.4E0
R100 (net64 0) R=4.9E4
T101 (net43 net12 net12 0) nfet L=2.59E-6 W=9.78E-6
R102 (net139 net104) R=9.3E5
C103 (vdd! net23) C=3.8E-9
T104 (net137 net117 net117 0) pfet L=7.48E-6 W=2.57E-6
R105 (net94 net86) R=7.9E0
T106 (0 net70 net70 0) pfet L=0.54E-6 W=3.76E-6
R107 (net41 net75) R=4.3E5
R108 (net121 net49) R=4.1E0
T109 (net105 net63 net63 0) pfet L=8.19E-6 W=5.37E-6
C110 (net60 net47) C=9.9E-6
T111 (net127 net66 net66 0) pfet L=9.57E-6 W=7.96E-6
T112 (net124 net94 net94 0) pfet L=5.85E-6 W=4.64E-6
T113 (net1 net32 net32 0) nfet L=5.10E-6 W=3.22E-6
T114 (net69 net84 net84 0) nfet L=1.45E-6 W=6.34E-6
R115 (net57 net122) R=3.3E6
R116 (net27 net122) R=8.9E4
C117 (net38 net19) C=8.5E-13
T118 (net80 net63 net63 0) nfet L=8.55E-6 W=3.90E-6
T119 (net6 net79 net79 0) pfet L=5.09E-6 W=7.25E-6
T120 (net74 net91 net91 0) pfet L=6.44E-6 W=1.09E-6
C121 (net13 net107) C=7.3E-12
T122 (net2 net112 net112 0) nfet L=9.49E-6 W=9.80E-6
T123 (net95 net3 net3 0) nfet L=8.66E-6 W=1.32E-6
R124 (net116 net118) R=5.1E6
T125 (net87 net104 net104 0) nfet L=7.77E-6 W=6.56E-6
T126 (net102 net130 net130 0) pfet L=4.66E-6 W=5.31E-6
C127 (net4 net54) C=4.0E-9
C128 (net57 net46) C=1.0E-13
T129 (net70 net97 net97 0) pfet L=0.52E-6 W=0.23E-6
T130 (net107 net57 net57 0) nfet L=9.48E-6 W=2.67E-6
R131 (net65 net16) R=8.0E0
T132 (net21 net5 net5 0) pfet L=0.19E-6 W=6.94E-6
C133 (net14 net88) C=5.4E-10
C134 (net12 net7) C=5.9E-14
T135 (net29 net55 net55 0) nfet L=7.39E-6 W=9.15E-6
C136 (net36 net112) C=2.2E-14
T137 (net67 net35 net35 0) pfet L=5.35E-6 W=3.70E-6
T138 (net92 net76 net76 0) nfet L=9.37E-6 W=5.89E-6
T139 (net50 net1 net1 0) pfet L=0.62E-6 W=8.83E-6
R140 (net135 net127) R=1.4E0
C141 (net80 net84) C=5.3E-11
T142 (net13 net129 net129 0) nfet L=6.69E-6 W=6.58E-6
T143 (net94 net94 net94 0) pfet L=6.95E-6 W=4.25E-6
R144 (net74 net109) R=6.3E2
R145 (net49 net45) R=8.6E1
T146 (net33 net88 net88 0) pfet L=4.77E-6 W=2.62E-6
C147 (net16 net65) C=9.5E-12
C148 (net4 vdd!) C=1.5E-11
T149 (vdd! net23 net23 0) nfet L=5.45E-6 W=5.19E-6
T150 (net99 net130 net130 0) nfet L=5.64E-6 W=9.91E-6
C151 (net23 net139) C=6.1E-12
T152 (net133 net12 net12 0) pfet L=2.20E-6 W=3.71E-6
T153 (net99 net46 net46 0) nfet L=1.29E-6 W=7.02E-6
R154 (net61 net131) R=5.2E1
T155 (net44 net21 net21 0) nfet L=9.89E-6 W=7.87E-6
R156 (0 net34) R=4.4E5
T157 (net121 net27 net27 0) pfet L=5.04E-6 W=5.49E-6
R158 (vdd! net106) R=9.8E2
C159 (net11 net24) C=4.7E-14
T160 (net123 vdd! vdd! 0) pfet L=4.89E-6 W=7.88E-6
T161 (net35 net48 net48 0) nfet L=5.41E-6 W=8.54E-6
T162 (0 net131 net131 0) nfet L=4.69E-6 W=7.37E-6
T163 (net53 vdd! vdd! 0) pfet L=8.58E-6 W=1.77E-6
T164 (net119 net131 net131 0) nfet L=4.99E-6 W=1.29E-6
C165 (net119 net65) C=0.7E-8
C166 (net78 net91) C=5.9E-6
T167 (net117 net7 net7 0) pfet L=9.24E-6 W=4.45E-6
T168 (net82 0 0 0) nfet L=9.71E-6 W=3.97E-6
T169 (net99 net99 net99 0) nfet L=5.67E-6 W=6.42E-6
T170 (net138 net38 net38 0) nfet L=7.32E-6 W=5.30E-6
T171 (net29 net106 net106 0) nfet L=4.60E-6 W=5.37E-6
T172 (vdd! net133 net133 0) pfet L=4.81E-6 W=4.52E-6
C173 (net70 net122) C=5.6E-7
R174 (0 net124) R=1.6E0
R175 (net81 net97) R=5.2E3
C176 (net70 net95) C=1.4E-7
T177 (net82 net80 net80 0) nfet L=9.71E-6 W=6.83E-6
T178 (net104 net82 net82 0) nfet L=7.13E-6 W=3.37E-6
T179 (net21 net110 net110 0) nfet L=9.39E-6 W=1.04E-6
C180 (net24 net80) C=6.8E-6
T181 (net70 net16 net16 0) pfet L=2.38E-6 W=9.45E-6
T182 (net45 net9 net9 0) nfet L=5.37E-6 W=2.86E-6
C183 (net9 net89) C=1.1E-13
C184 (net78 net2) C=0.8E-6
R185 (net100 net140) R=7.1E1
T186 (net48 net77 net77 0) pfet L=1.52E-6 W=9.17E-6
C187 (net110 net68) C=5.6E-10
T188 (net120 0 0 0) pfet L=6.70E-6 W=7.56E-6
T189 (vdd! net22 net22 0) pfet L=6.93E-6 W=5.98E-6
T190 (net25 net81 net81 0) pfet L=2.28E-6 W=2.10E-6
T191 (net21 net3 net3 0) nfet L=2.59E-6 W=2.69E-6
T192 (net123 net114 net114 0) pfet L=5.46E-6 W=4.29E-6
T193 (0 net89 net89 0) pfet L=5.78E-6 W=8.93E-6
R194 (net12 net118) R=4.7E3
T195 (net1 net139 net139 0) nfet L=3.60E-6 W=4.87E-6
R196 (net68 net97) R=0.5E2
T197 (net70 net41 net41 0) pfet L=2.48E-6 W=5.20E-6
T198 (net59 net69 net69 0) nfet L=1.91E-6 W=6.45E-6
T199 (net132 net10 net10 0) pfet L=6.32E-6 W=4.92E-6
T200 (net138 net94 net94 0) nfet L=8.93E-6 W=8.24E-6
T201 (net139 net24 net24 0) nfet L=3.92E-6 W=2.11E-6
R202 (net40 vdd!) R=2.1E3
T203 (net39 net108 net108 0) nfet L=0.30E-6 W=2.29E-6
T204 (net82 net112 net112 0) pfet L=7.88E-6 W=7.02E-6
R205 (net61 net103) R=7.6E3
T206 (net17 net93 net93 0) nfet L=3.03E-6 W=0.40E-6
C207 (net110 net92) C=3.2E-7
C208 (net71 net18) C=4.7E-8
T209 (net28 net50 net50 0) nfet L=2.55E-6 W=3.14E-6
C210 (net89 net5) C=7.5E-11
R211 (net85 net25) R=5.9E6
C212 (net19 net142) C=3.2E-14
T213 (net23 net124 net124 0) nfet L=3.95E-6 W=6.00E-6
T214 (net58 net85 net85 0) pfet L=6.64E-6 W=3.03E-6
T215 (net77 net59 net59 0) nfet L=7.76E-6 W=7.82E-6
T216 (net50 net59 net59 0) pfet L=5.76E-6 W=9.01E-6
C217 (net92 net126) C=0.7E-10
T218 (0 net136 net136 0) nfet L=0.97E-6 W=2.42E-6
C219 (net77 net100) C=1.7E-14
C220 (net87 net89) C=0.2E-6
R221 (net97 net58) R=3.5E5
C222 (net100 net67) C=3.5E-9
T223 (0 net32 net32 0) nfet L=4.38E-6 W=6.20E-6
C224 (net34 net64) C=2.2E-5
T225 (net18 net111 net111 0) pfet L=4.85E-6 W=2.50E-6
R226 (net125 net46) R=1.5E6
C227 (net84 net118) C=2.0E-5
R228 (net61 net64) R=8.7E2
T229 (net79 net61 net61 0) pfet L=0.31E-6 W=3.54E-6
R230 (0 net136) R=3.2E5
R231 (net11 net29) R=8.0E5

